Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion/ Paroxysmal nocturnal dyspnea
 
Major Surgical or Invasive Procedure:
coronary artery bypass grafting x4 (left internal mammary artery 
grafted to left anterior descending artery/Saphenous vein 
grafted to Obtuse Marginal #1/#2/Posterior descending 
___

 
History of Present Illness:
___ year old female with known coronary artery disease, status 
post stenting, cardiomyopathy, and two recent CHF admissions 
___ progressive dyspnea on exertion and 
Paroxysmal Nocturnal Dyspnea referred for cardiac 
catheterization for further evaluation.Cath report revealed 
multivessel coronary disease. ___ was consulted for 
Coronary revascularization.
 
Past Medical History:
CAD s/p MI and LAD stenting in ___ with repeat stenting for ISR
PVD 
___ claudication s/p left leg angioplasty for an ischemic leg per
___ report ?___
Cardiomyopathy
Chronic systolic heart failure s/p admissions ___ and ___
Diabetes mellitus
Hypertension per records from outside MD ___ reports this 
to
be inaccurate)
Hyperlipidemia
Past Surgical History=
___ Cholecystectomy
s/p abdominal aortic aneurysm repair at the ___ approximately ___ years ago (per ___ report)

 
Social History:
___
Family History:
Family History: (parents/children/siblings CAD < ___ y/o):FATHER
S/P MI AND DIED AGE ___

 
Physical Exam:
Physical Exam

Pulse:64 Resp:18  O2 sat: 99%RA
B/P  Right: 161/63   Left:168/61 

Height:5'4"    Weight:150 lbs

General:Alert & oriented
Skin: Dry [] intact [X]
HEENT: PERRLA [X] EOMI [X], No dentures
Neck:  Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X]
Heart: RRR [X]  Irregular []  No Murmur, gallops or rubs. 
Abdomen: Soft [X] non-distended [X] non-tender [X]  bowel sounds
+ [X]
Extremities: Warm [X], well-perfused [X]  Edema Varicosities:
None [X]
Neuro: Grossly intact
Pulses:
Femoral      Right:2+   Left:2+
DP           Right:1+   Left:1+
___           Right:1+   Left:1+
Radial       Right:2+   Left:2+

Carotid Bruit        Right:NO    Left:NO

 
Pertinent Results:
___ 06:15AM BLOOD WBC-10.9 RBC-3.90* Hgb-11.3* Hct-34.6* 
MCV-89 MCH-28.9 MCHC-32.5 RDW-15.4 Plt ___
___ 12:45PM BLOOD WBC-15.3*# RBC-2.40*# Hgb-7.1*# 
Hct-20.5*# MCV-85 MCH-29.4 MCHC-34.4 RDW-15.6* Plt ___
___ 01:09AM BLOOD ___ PTT-29.5 ___
___ 12:45PM BLOOD ___ PTT-34.3 ___
___ 06:15AM BLOOD Glucose-78 UreaN-43* Creat-1.7* Na-139 
K-3.9 Cl-102 HCO3-25 AnGap-16
___ 03:29AM BLOOD Glucose-77 UreaN-19 Creat-1.3* Na-140 
K-4.2 Cl-112* HCO3-20* AnGap-12
___ 04:56PM BLOOD ALT-18 AST-27 LD(LDH)-374* AlkPhos-58 
Amylase-16 TotBili-0.8
 

___ ECHOCARDIOGRAPHY REPORT

___       ___ MRN:   ___       TEE (Complete) Done 
___ at 9:39:05 AM      FINAL  
Referring Physician     ___  
___.
___  Status: Inpatient DOB: ___ 
Age (years): ___ F  Hgt (in):  
BP (mm Hg): /  Wgt (lb):  
HR (bpm):  BSA (m2):  
Indication: Aortic valve disease. Coronary artery disease. Left 
ventricular function. Mitral valve disease. Valvular heart 
disease.  
ICD-9 Codes: 440.0, 424.1, 424.0 
___ Information  
Date/Time: ___ at 09:39    ___ MD: ___, 
MD 
___ Type: TEE (Complete)
3D imaging. Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler ___ Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Adequate 
Tape #: ___-: Machine:  
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Ejection Fraction:  30% to 40%  >= 55%  
 
Findings  
Multiplanar reconstructions were generated and confirmed on an 
independent workstation.  

LEFT ATRIUM: Mild ___. No spontaneous echo contrast 
or thrombus in the body of the ___. All four pulmonary 
veins identified and enter the left atrium. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. A catheter or 
pacing wire is seen in the RA. No ASD by 2D or color Doppler. 

LEFT VENTRICLE: Wall thickness and cavity ___ were 
obtained from 2D images. Normal LV wall thickness and cavity 
size. Moderately depressed LVEF. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal ascending aorta diameter. Normal descending aorta 
diameter. Simple atheroma in descending aorta. 

AORTIC VALVE: Three aortic valve leaflets. Mildly thickened 
aortic valve leaflets (?#). No AS. No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild (1+) 
MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: A TEE was performed in the location listed 
above. I certify I was present in compliance with ___ 
regulations. The TEE probe was passed with assistance from the 
anesthesioology staff using a laryngoscope. No TEE related 
complications.  

REGIONAL LEFT VENTRICULAR WALL MOTION:  

  
  
    
 
     N = Normal, H = Hypokinetic, A = Akinetic, D = Dyskinetic  
Conclusions  
PRE-BYPASS: The left atrium is mildly dilated. No spontaneous 
echo contrast or thrombus is seen in the body of the left atrium 
or left atrial appendage. No atrial septal defect is seen by 2D 
or color Doppler. Left ventricular wall thicknesses and cavity 
size are normal. Overall left ventricular systolic function is 
moderately depressed (LVEF=35-40 %). There is moderate anterior 
wall and ___ hypokinesia. Right ventricular chamber 
size and free wall motion are normal. There are simple atheroma 
in the descending thoracic aorta. There are three aortic valve 
leaflets. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Mild (1+) 
mitral regurgitation is seen. There is no pericardial effusion.

POST CPB:

1. Slightly improved global and focal LV systolci function with 
background inotropic support.

2. Trace MR and trace TR.

3. Intact aorta   
  Electronically signed by ___, MD, Interpreting 
physician ___ ___ 17:12  
   
    ___ F  ___  ___ 
 
Radiology Report RENAL U.S. PORT Study Date of ___ 10:20 AM 

 
  
___ CSRU ___ 10:20 AM 
RENAL U.S. PORT; DUPLEX DOP ABD/PEL LIMITED   Clip # ___   
Reason: LOW UO SP CABG,EVAL FOR STENOSIS 
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old woman with low uo s/p CABG  
REASON FOR THIS EXAMINATION: 
   stenosis  

 
 
Provisional Findings Impression: GWp SAT ___ 4:52 ___ 
PFI: 
1. Limited portable renal ultrasound demonstrating no 
hydronephrosis, no 
nephrolithiasis and no solid renal mass. 
2. Right renal artery resistive index measured at 0.85, 0.76, 
0.78 and 
infrarenal flow with resistive indices 0.77, 0.79 and 0.80. 
3. Left renal artery resistive index measured at 0.87, 0.88 with 
elevated 
velocities measured at 160, 200 cm/sec. Velocities and resistive 
indices in 
the intrarenal portion appear normal at 0.71, 0.84, and 0.84. 

 
Final Report 
INDICATION: ___ woman with low urine output status post 
CABG, query 
stenosis. 
  
COMPARISON: None available. 
  
PORTABLE RENAL ULTRASOUND: 
  
Grayscale and color Doppler sonographic images were obtained 
that demonstrate 
the right kidney to measure 10.8 cm pole to pole and the left 
10.3 without 
evidence for hydronephrosis, nephrolithiasis, or renal mass. On 
the right 
main renal artery demonstrates flow velocity between 71 and 87 
cm/sec and 
resistive index measured at 0.85 and 0.76. Infrarenally, the 
upper, mid, and 
lower velocities are measured at 76, 62 and 103 cm/sec and the 
resistive 
indices 0.79, 0.77 and 0.80. Right renal venous flow is normal. 
On the left, 
the main renal artery velocity is measured at 200 and 166 
cm/sec, with 
resistive index at 0.88 and 0.87. The interlobar velocities are 
measured in 
the upper, mid and lower pole at 83, 56 and approximately 40 
cm/sec. Resistive 
indices are measured at 0.84, 0.71, and 0.70. A Foley catheter 
is demonstrated 
within the decompressed bladder. 
  
IMPRESSION: 
1. No sonographic evidence for hydronephrosis, left 
nephrolithiasis, or renal 
mass. 
  
2. Normal arterial and venous flow demonstrated at the right 
kidney. 
  
3. In this limited portable sonographic study, there are 
elevated velocities 
and elevated RIs demonstrated in the left renal artery 
concerning for 
stenosis. Consider MRA for further evaluation. A non contrast 
MRA examination 
is possible if ___ renal function precludes administration 
of contrast. 
  
  
  
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 
___: SUN ___ 4:17 ___ 
 
  Imaging Lab 
 

 
Brief Hospital Course:
On ___ ___ underwent coronary artery bypass grafting x4 
(left internal mammary artery grafted to left anterior 
descending artery/Saphenous vein grafted to Obtuse Marginal 
#1/#2/Posterior descending artery) with ___. Cross clamp 
time= 97 minutes/ Cardiopulmonary bypass time= 132 minutes. 
Please refer to ___ report for further 
details. She was transferred to the CVICU hemodynamically stable 
requiring Milrinone to optimize cardiac output. She awoke 
neurologically intact and was extubated on POD#1. She was weaned 
off inotropes. Beta-blockers optimized per Blood Pressure 
tolerance. All lines and drains were discontinued in a timely 
fashion. Psychiatry was consulted for postoperative delirium. 

She continued to progress and on POD# 4 was transferred to the 
step down unit for further monitoring. Her rhythm went into 
rapid atrial fibrillation and was treated with Amiodarone. She 
converted to sinus rhythm, no anticoagulation required. She was 
diuresed for right pleural effusion evident on chest xray. The 
remainder of her postoperative course was essentially 
uncomplicated and on POD# 6 she was cleared for discharge to 
rehab for further strength, endurance and increase in daily 
activities. All follow up appointments were advised. Pt. should 
have a MRA as an outpt. for follow up of possible left renal 
artery stenosis. Please restart metformin when creatinine has 
normalized.
 
Medications on Admission:
Glyburide 5mg one tablet twice a day
*Plavix 75mg daily every morning
Atenolol 25mg daily every morning
Imdur 30mg daily every morning
Lisinopril 5mg daily every morning
Furosemide 40mg one tablet every morning
Simvastatin 20mg one tablet every morning
Metformin 500mg one tablet twice a day
Ecotrin 81mg daily every morning

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) for 1 months.  
2. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 2 weeks.  
3. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Glyburide 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Amiodarone 200 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day) for 5 days: 400 mg BID until ___, then 400 mg daily for 
7 days, then 200 mg daily ongoing.  
8. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
9. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
10. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for 
wheezing/sob.  
11. Hydralazine 25 mg Tablet Sig: Two (2) Tablet PO Q6H (every 6 
hours).  
12. Furosemide 40 mg Tablet Sig: One (1) Tablet PO twice a day: 
please assess for dose reduction after one week.  
13. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO Q12H (every 12 
hours): please assess for dose reduction when oral lasix is 
decreased.  
14. Humalog insulin per sliding scale QID.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
status post coronary artery bypass grafting x4 (left internal 
mammary artery grafted to left anterior descending 
artery/Saphenous vein grafted to Obtuse Marginal #1/#2/Posterior 
descending ___ 
-myocardial infarction /LAd stenting ___ 
-lower extremity claudication, s/p Left leg angioplasty ___ 
-Cardiomyopathy 
-CHF: ___.& ___ 
-Diabetes Mellitus 
-Hypertension 
-hyperlipidemia 
- postop acute renal failure
-s/p ___ 

 
Discharge Condition:
good

 
Discharge Instructions:
no lotions, creams or powders on any incision
shower daily and pat incision dry
no driving for one month
no lifting greater than 10 pounds for 10 weeks
call for fever greater than 100, redness, drainage, or weight 
gain of 2 pounds in 2 days or 5 pounds in one week
 
Followup Instructions:
___